US07772231B2
phenyl(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzofuran-2-yl)methanone
A mixture of 5-bromo-2-benzoyl-benzofuran purchased from Indofine Chemicals (0.251 g, 0.83 mmol), bis(pinacolato)diboron (0.33 g, 1.3 mmol), potassium acetate (0.26 g, 2.7 mmol), 1,3-bis(diisopropylphenyl)imidazolium chloride (0.032 g, 0.075 mmol) and palladium(II)acetate (0.011 g, 0.05 mmol) in THF (4 mL) was heated to 125° C. for 20 min in a microwave reactor. The reaction mixture was diluted with EtOAc and the organics washed sequentially with brine, then dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel chromatography eluting with 10-50% EtOAc/hexanes to provide the title compound as a white solid.

reactant | 5-bromo-2-benzoyl-benzofuran | BrC=1C=CC2=C(C=C(O2)C(C2=CC=CC=C2)=O)C1 | C15H9BrO2
reactant | bis(pinacolato)diboron | 1.3 mmol, 0.33 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.7 mmol, 0.26 g | C(C)(=O)[O-].[K+]
reactant | 1,3-bis(diisopropylphenyl)imidazolium chloride | 0.075 mmol, 0.032 g | [Cl-].C(C)(C)C=1C(=C(C=CC1)[N+]1=CN(C=C1)C1=C(C(=CC=C1)C(C)C)C(C)C)C(C)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II)acetate | 0.05 mmol, 0.011 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | phenyl(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzofuran-2-yl)methanone | C1(=CC=CC=C1)C(=O)C=1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C21H21BO4
